US05442070
A suspension of 2.1 g of 3-cyano-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine in 100 cm3 of dimethyl sulphoxide is heated to 80° C. in the presence of 2 cm3 of N-methylpiperazine. The reaction mixture is maintained at this temperature for 8 hours. The solution obtained is cooled to room temperature and stirred at this temperature for 15 hours. The precipitate formed is filtered off, washed with 3 times 20 cm3 of water and dried under vacuum (20 kPa) at 50° C. 2.6 g of 3-cyano-7-fluoro-1-methyl-8-(4-methyl-1-piperazinyl)-4-oxobenzo[b][1,8]naphthyridine are obtained in the form of a yellow precipitate, melting point 335° C.

reactant | 3-cyano-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 2.1 g | C(#N)C=1C(C=2C=C3C(=NC2N(C1)C)C=C(C(=C3)F)F)=O | C14H7F2N3O
reactant | N-methylpiperazine | 2 cm3 | CN1CCNCC1 | C5H12N2
solvent | dimethyl sulphoxide | 100 cm3 | CS(=O)C | C2H6OS
product | 3-cyano-7-fluoro-1-methyl-8-(4-methyl-1-piperazinyl)-4-oxobenzo[b][1,8]naphthyridine | 2.6 g | C(#N)C=1C(C=2C=C3C(=NC2N(C1)C)C=C(C(=C3)F)N3CCN(CC3)C)=O | C19H18FN5O
